US07750145B2
1-(4-Carboxybenzyl)-7-chloro-3-(β-D-glucopyranosyl)-1H-indole
To a solution of 7-chloro-3-(β-D-glucopyranosyl)-1-[4-(methoxycarbonyl)benzyl]-1H-indole (71 mg) in ethanol (1 mL) was added 2 mol/L aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 2 mol/L hydrochloric acid (1 mL), and the solvent was removed under reduced pressure. The residue was purified by solid phase extraction on ODS (washing solvent: water, eluent: methanol) to give the title compound (68 mg).

reactant | 7-chloro-3-(β-D-glucopyranosyl)-1-[4-(methoxycarbonyl)benzyl]-1H-indole | 71 mg | ClC=1C=CC=C2C(=CN(C12)CC1=CC=C(C=C1)C(=O)OC)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C23H24ClNO7
reactant | sodium hydroxide | 2 mol/L, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 1 mL | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-(4-Carboxybenzyl)-7-chloro-3-(β-D-glucopyranosyl)-1H-indole | 68 mg | C(=O)(O)C1=CC=C(CN2C=C(C3=CC=CC(=C23)Cl)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=C1 | C22H22ClNO7
